US07645755B2
b) 4-(4-Nitro-phenyl)-3,6-dihydro-2H-thiopyran
To a mixture of 4-nitrophenylboronic acid (418 mg, 2.50 mmol), trifluoromethanesulfonic acid 3,6-dihydro-2H-thiopyran-4-yl ester (as prepared in the previous step, 931 mg, 3.75 mmol), Pd(PPh3)4 (433 mg, 0.375 mmol) and lithium chloride (LiCl) (212 mg, 5.0 mmol) in 20 mL of 1,4-dioxane was added 2.0 M aq Na2CO3 solution (3.13 mL, 6.25 mmol). The resulting mixture was stirred at 80° C. for 2 h and then cooled to RT. Treated with 200 mL of EtOAc, the mixture was washed with H2O (2×30 mL), brine (30 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (1-3% EtOAc/hexane) gave 470 mg (85%) of the title compound as a light brown oil. 1H-NMR (CDCl3; 400 MHz): δ 8.19 (d, 2H, J=9.1 Hz), 7.48 (d, 2H, J=9.1 Hz), 6.36 (m, 1H), 3.39 (m, 2H), 2.91 (t, 2H, J=5.7 Hz), 2.72 (m, 2H). Mass spectrum (ESI, m/z): Calcd. for C11H11NO2S, 222.1 (M+H), found 222.3.

reactant | 4-nitrophenylboronic acid | 2.50 mmol, 418 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | trifluoromethanesulfonic acid 3,6-dihydro-2H-thiopyran-4-yl ester | S1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C6H7F3O3S2
reactant | lithium chloride | 5.0 mmol, 212 mg | [Cl-].[Li+]
reactant | Na2CO3 | 6.25 mmol, 2.0 M, 3.13 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.375 mmol, 433 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-(4-Nitro-phenyl)-3,6-dihydro-2H-thiopyran | 470 mg, 85% | [N+](=O)([O-])C1=CC=C(C=C1)C=1CCSCC1 | C11H11NO2S
